US07589232B2
Step b) Formation of [4-({{4-[(4-butylphenyl)ethynyl]benzyl}[(6-hydroxypyridin-3-yl)carbonyl]amino}methyl)phenoxy]acetic acid
The titled compound was prepared following the procedure F using methyl [4-({{4-[(4-butylphenyl)ethynyl]benzyl}[(6-hydroxypyridin-3-yl)carbonyl]amino}methyl)phenoxy]acetate and NaOH 1N in the presence of MeOH/THF as a white powder (47%). 1H NMR (DMSO-d6, 300 MHz) δ 7.57-7.43 (m, 6H), 7.26-7.09 (m, 6H), 6.89 (d, J=8.7 Hz, 2H), 6.33 (d, J=9.4 Hz, 1H), 4.65 (s, 2H), 4.52 (2H), 4.48 (s, 2H), 2.60 (t, J=7.5 Hz, 2H), 1.55 (m, 2H), 1.30 (m, 2H), 0.89 (t, J=7.3 Hz, 3H). M− (ESI): 547.3; M+ (ESI): 549.4. HPLC, Rt: 4.48 min (Purity: 76.9%).

reactant | methyl [4-({{4-[(4-butylphenyl)ethynyl]benzyl}[(6-hydroxypyridin-3-yl)carbonyl]amino}methyl)phenoxy]acetate | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(C(=O)C=2C=NC(=CC2)O)CC2=CC=C(OCC(=O)OC)C=C2)C=C1 | C35H34N2O5
reactant | NaOH | 1N | [OH-].[Na+]
solvent | MeOH THF | CO.C1CCOC1
product | [4-({{4-[(4-butylphenyl)ethynyl]benzyl}[(6-hydroxypyridin-3-yl)carbonyl]amino}methyl)phenoxy]acetic acid | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(C(=O)C=2C=NC(=CC2)O)CC2=CC=C(OCC(=O)O)C=C2)C=C1 | C34H32N2O5
